US07615568B2
G. 3-[2-[(2R)-3-Amino-2-methylpropoxy]-4-methylsulfonyl-benzoylamino]-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide Hydrochloride
N-(5-Chloropyridin-2-yl)-3-[2-[(2R)-2-methyl-3-(2-propylimino)propoxy]-4-methylsulfonylbenzoylamino]-pyridine-2-carboxamide was treated with 1 N HCl and purified by HPLC (Vydac C18, 5-70% 0.1% TFA/CH3CN in 0.1% TFA/H2O; Rt: 27.6 m) to give the title compound as a solid (205 mg, 69%).

reactant | N-(5-Chloropyridin-2-yl)-3-[2-[(2R)-2-methyl-3-(2-propylimino)propoxy]-4-methylsulfonylbenzoylamino]-pyridine-2-carboxamide | ClC=1C=CC(=NC1)NC(=O)C1=NC=CC=C1NC(C1=C(C=C(C=C1)S(=O)(=O)C)OC[C@@H](C=NC(C)C)C)=O | C26H28ClN5O5S
reactant | HCl | 1 N | Cl | ClH
product | 3-[2-[(2R)-3-Amino-2-methylpropoxy]-4-methylsulfonyl-benzoylamino]-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide Hydrochloride | 205 mg, 69% | Cl.NC[C@H](COC1=C(C(=O)NC=2C(=NC=CC2)C(=O)NC2=NC=C(C=C2)Cl)C=CC(=C1)S(=O)(=O)C)C | InChI=1S/C23H24ClN5O5S.ClH/c1-14(11-25)13-34-19-10-16(35(2,32)33)6-7-17(19)22(30)28-18-4-3-9-26-21(18)23(31)29-20-8-5-15(24)12-27-20;/h3-10,12,14H,11,13,25H2,1-2H3,(H,28,30)(H,27,29,31);1H/t14-;/m1./s1
